US07875645B2
rac-(E)-[1-(2-sec-Butyl-6-ethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine was prepared from (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine (Example 3 a) and sec.-butyl lithium in analogy to procedure Example 5 a): colourless liquid: MS (ISP): 288.1 ((M+H)+.).

reactant | (E)-[1-(2-ethyl-6-methoxy-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | C(C)C1=C(C(=CC=C1)OC)\C=N\C(C(C)C)C(C)C | C17H27NO
reactant | sec.-butyl lithium | C(C)(CC)[Li]
product | rac-(E)-[1-(2-sec-Butyl-6-ethyl-phenyl)-methylidene]-(1-isopropyl-2-methyl-propyl)-amine | C(C)(CC)C1=C(C(=CC=C1)CC)\C=N\C(C(C)C)C(C)C | C20H33N
